US07655671B2
Synthesis of 4,5α-epoxy-3-methoxy-17-(2-phenylethyl)-14β-(3-phenylpropyloxy)morphinan-6-one hydrochloride (compound 4.HCl)
A mixture of 4,5α-epoxy-3-methoxy-14β-(3-phenylpropyloxy)morphinan-6-one hydrochloride (1.0 g, 2.38 mmol), potassium carbonate (3.00 g, 21.7 mmol) and 2-phenylethylbromide (1.19 ml, 8.8 mmol) in water-free N,N-dimethylformamide (10 ml) was stirred for 12 h under exclusion of moisture and under nitrogen at 80° C. (bath temperature). After filtration from the inorganic residue, which was washed three times each time with 50 ml dichloromethane, the filtrate was evaporated down under reduced pressure. The oily residue was dissolved in 300 ml dichloromethane, washed with water (3×200 ml) and saturated sodium chloride solution (4×200 ml), dried over sodium sulphate and evaporated down. The evaporation residue (960 mg of brown oil) was purified by column chromatography (silica gel; CH2Cl2/MeOH/conc. NH4OH 250:2:0.5), the oily evaporation residue dissolved in 50 ml ether and precipitated by the addition of etherial HCl up to the acidic reaction. Yield: 0.45 g (36%) of the compound 4.HCl as colourless crystals. Fp. 128-130° C.; MS (CI): 524 (M++1); IR (KBr): 1726 (C═O) cm−1; 1H-NMR (DMSO-d6, δ in ppm): δ 8.84 (s, wide, HN+), 7.39-7.17 (m, 10 arom. H), 6.89 (d, 1 arom. H, J=8.2 Hz), 6.79 (d, 1 arom. H, J=8.2 Hz), 4.95 (s, CH-5), 3.81 (s, CH3O).

reactant | 4,5α-epoxy-3-methoxy-14β-(3-phenylpropyloxy)morphinan-6-one hydrochloride | 2.38 mmol, 1.0 g | Cl.O1C2=C(C=CC=3C[C@@H]4[C@@]5(CCC([C@H]1[C@@]5(C23)CCN4)=O)OCCCC4=CC=CC=C4)OC
reactant | potassium carbonate | 21.7 mmol, 3.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-phenylethylbromide | 8.8 mmol, 1.19 ml | C1(=CC=CC=C1)CCBr | C8H9Br
solvent | water | 10 ml | O | H2O
product | 4,5α-epoxy-3-methoxy-17-(2-phenylethyl)-14β-(3-phenylpropyloxy)morphinan-6-one hydrochloride | Cl.O1C2=C(C=CC=3C[C@@H]4[C@@]5(CCC([C@H]1[C@@]5(C23)CCN4CCC4=CC=CC=C4)=O)OCCCC4=CC=CC=C4)OC | InChI=1S/C34H37NO4.ClH/c1-37-28-15-14-26-23-29-34(38-22-8-13-24-9-4-2-5-10-24)18-16-27(36)32-33(34,30(26)31(28)39-32)19-21-35(29)20-17-25-11-6-3-7-12-25;/h2-7,9-12,14-15,29,32H,8,13,16-23H2,1H3;1H/t29-,32+,33+,34-;/m1./s1
